US05047411
A mixture of 4-bromo-1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one (55.0 g) and 2-aminopyridine (42.3 g) in acetonitrile (380 ml) was stirred for 4 hours at ambient temperature. Ethyl acetate was added to the reaction mixture and the precipitate was collected by filtration. A mixture of water and ethyl acetate was added to the precipitate and the mixture was adjusted to pH 7.0 with 20% potassium carbonate. The precipitate was collected by filtration and washed with water to give 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]imidazo[1,2-a]pyridine (40.1 g).

reactant | 4-bromo-1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one | 55.0 g | BrCC(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C17H14BrNO4
reactant | 2-aminopyridine | 42.3 g | NC1=NC=CC=C1 | C5H6N2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 380 ml | C(C)#N | C2H3N
product | 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]imidazo[1,2-a]pyridine | 40.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC=1N=C2N(C=CC=C2)C1 | C22H17N3O3
